US04242519
Methanol (6 ml) and 4 ml of water were added to 1.08 g of methyl α-methylthio-α-(2-thienyl)propionate, and 500 mg of sodium hydroxide was added. The mixture was heated under reflux for 1 hour. Water (20 ml) was added, and the mixture was extracted with 10 ml of diethyl ether. The aqueous layer was adjusted to pH 1 with conc. hydrochloric acid, and extracted three times with 20 ml of diethyl ether. The organic layer was washed with 10 ml of water, and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure afforded 1.00 g of α-methylthio-α-(2-thienyl)propionic acid as colorless crystals in a yield of 99%.

reactant | Methanol | 6 ml | CO | CH4O
reactant | methyl α-methylthio-α-(2-thienyl)propionate | 1.08 g | CSC(C(=O)OC)(C)C=1SC=CC1 | C9H12O2S2
reactant | sodium hydroxide | 500 mg | [OH-].[Na+]
solvent | Water | 20 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | α-methylthio-α-(2-thienyl)propionic acid | 1.00 g, yield of 99% | CSC(C(=O)O)(C)C=1SC=CC1 | C8H10O2S2
